US05750574
3-tert-Butylamino-4-(3-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione
The title compound was prepared according to the procedure for example 1-step 2 except that 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione was used in place of (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione and 3-trifluoromethyl-benzylamine was used in place of 4-fluoro-benzylamine. Yield: 73%; mp: 237-239° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.36 (s, 9H), 4.81-4.87 (m, 2H), 7.57 (s, 1H), 7.60-7.77 (m, 4H), 7.82 (brm, 1H); IR (KBr, cm-1): 3233m, 3059w, 2973w, 1793w, 1653s, 1571s, 1540s, 1471m, 1447m, 1354m, 1166m, 1127m; MS (CI) m/z (relative intensity): 327 (M+ +H, 80); Anal. Calcd. for C16H17 F3N2O2 : C, 58.89; H, 5.25; N, 8.58. Found: C, 58.99; H, 5.23; N, 8.47.

reactant | 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | 3-trifluoromethyl-benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | KBr | [K+].[Br-]
product | 3-tert-Butylamino-4-(3-trifluoromethyl-benzylamino)-cyclobut-3-ene-1,2-dione | Yield: 73% | C(C)(C)(C)NC=1C(C(C1NCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C16H17F3N2O2
